US06329405B1
(97a) N-[(R)-1-(3-Fluorophenyl)ethyl]-N-[(4-methoxyphenyl)-(3-nitrophenyl)methyl]amine
Following a similar procedure to that described in Example (1a), 11.16 g of 4-methoxyphenyl 3-nitrophenyl ketone and 7.62 g of (R)-1-(3-fluorophenyl)ethylamine hydrochloride were reacted, to obtain 15.11 of the title compound as a pale yellow oil.

reactant | 4-methoxyphenyl 3-nitrophenyl ketone | 11.16 g | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)C1=CC=C(C=C1)OC | C14H11NO4
reactant | (R)-1-(3-fluorophenyl)ethylamine hydrochloride | 7.62 g | Cl.FC=1C=C(C=CC1)[C@@H](C)N
product | N-[(R)-1-(3-Fluorophenyl)ethyl]-N-[(4-methoxyphenyl)-(3-nitrophenyl)methyl]amine | FC=1C=C(C=CC1)[C@@H](C)NC(C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=C(C=C1)OC | C22H21FN2O3
